* Subcircuit SN7404_Subcircuit
.subckt SN7404_Subcircuit net-_d1-pad2_ net-_d2-pad2_ net-_d3-pad2_ net-_d4-pad2_ net-_d5-pad2_ net-_d6-pad2_ net-_r1-pad1_ gndpwr net-_d7-pad2_ net-_d8-pad2_ net-_d9-pad2_ net-_d10-pad2_ net-_d11-pad2_ net-_d12-pad2_ 
* c:\fossee\esim\library\subcircuitlibrary\sn7404_subcircuit\sn7404_subcircuit.cir
.include NPN.lib
.include D.lib
r17  net-_r1-pad1_ net-_q17-pad2_ 4k
q17 net-_q17-pad1_ net-_q17-pad2_ net-_d9-pad2_ Q2N2222
q19 net-_q19-pad1_ net-_q17-pad1_ net-_q19-pad3_ Q2N2222
q21 net-_q21-pad1_ net-_q19-pad1_ net-_d11-pad1_ Q2N2222
d11 net-_d11-pad1_ net-_d11-pad2_ 1N4148
q22 net-_d11-pad2_ net-_q19-pad3_ gndpwr Q2N2222
r21  ? net-_q19-pad1_ 1.6k
r23  net-_r1-pad1_ net-_q21-pad1_ 130
r19  net-_q19-pad3_ gndpwr 1k
d9 gndpwr net-_d9-pad2_ 1N4148
r18  net-_r1-pad1_ net-_q18-pad2_ 4k
q18 net-_q18-pad1_ net-_q18-pad2_ net-_d10-pad2_ Q2N2222
q20 net-_q20-pad1_ net-_q18-pad1_ net-_q20-pad3_ Q2N2222
q23 net-_q23-pad1_ net-_q20-pad1_ net-_d12-pad1_ Q2N2222
d12 net-_d12-pad1_ net-_d12-pad2_ 1N4148
q24 net-_d12-pad2_ net-_q20-pad3_ gndpwr Q2N2222
r22  net-_r1-pad1_ net-_q20-pad1_ 1.6k
r24  net-_r1-pad1_ net-_q23-pad1_ 130
r20  net-_q20-pad3_ gndpwr 1k
d10 gndpwr net-_d10-pad2_ 1N4148
r9  net-_r1-pad1_ net-_q9-pad2_ 4k
q9 net-_q11-pad2_ net-_q9-pad2_ net-_d5-pad2_ Q2N2222
q11 net-_q11-pad1_ net-_q11-pad2_ net-_q11-pad3_ Q2N2222
q13 net-_q13-pad1_ net-_q11-pad1_ net-_d7-pad1_ Q2N2222
d7 net-_d7-pad1_ net-_d7-pad2_ 1N4148
q14 net-_d7-pad2_ net-_q11-pad3_ gndpwr Q2N2222
r13  ? net-_q11-pad1_ 1.6k
r15  net-_r1-pad1_ net-_q13-pad1_ 130
r11  net-_q11-pad3_ gndpwr 1k
d5 gndpwr net-_d5-pad2_ 1N4148
r10  net-_r1-pad1_ net-_q10-pad2_ 4k
q10 net-_q10-pad1_ net-_q10-pad2_ net-_d6-pad2_ Q2N2222
q12 net-_q12-pad1_ net-_q10-pad1_ net-_q12-pad3_ Q2N2222
q15 net-_q15-pad1_ net-_q12-pad1_ net-_d8-pad1_ Q2N2222
d8 net-_d8-pad1_ net-_d8-pad2_ 1N4148
q16 net-_d8-pad2_ net-_q12-pad3_ gndpwr Q2N2222
r14  ? net-_q12-pad1_ 1.6k
r16  net-_r1-pad1_ net-_q15-pad1_ 130
r12  net-_q12-pad3_ gndpwr 1k
d6 gndpwr net-_d6-pad2_ 1N4148
r1  net-_r1-pad1_ net-_q1-pad2_ 4k
q1 net-_q1-pad1_ net-_q1-pad2_ net-_d1-pad2_ Q2N2222
q3 net-_q3-pad1_ net-_q1-pad1_ net-_q3-pad3_ Q2N2222
q5 net-_q5-pad1_ net-_q3-pad1_ net-_d3-pad1_ Q2N2222
d3 net-_d3-pad1_ net-_d3-pad2_ 1N4148
q6 net-_d3-pad2_ net-_q3-pad3_ gndpwr Q2N2222
r5  ? net-_q3-pad1_ 1.6k
r7  net-_r1-pad1_ net-_q5-pad1_ 130
r3  net-_q3-pad3_ gndpwr 1k
d1 gndpwr net-_d1-pad2_ 1N4148
r2  net-_r1-pad1_ net-_q2-pad2_ 4k
q2 net-_q2-pad1_ net-_q2-pad2_ net-_d2-pad2_ Q2N2222
q4 net-_q4-pad1_ net-_q2-pad1_ net-_q4-pad3_ Q2N2222
q7 net-_q7-pad1_ net-_q4-pad1_ net-_d4-pad1_ Q2N2222
d4 net-_d4-pad1_ net-_d4-pad2_ 1N4148
q8 net-_d4-pad2_ net-_q4-pad3_ gndpwr Q2N2222
r6  ? net-_q4-pad1_ 1.6k
r8  net-_r1-pad1_ net-_q7-pad1_ 130
r4  net-_q4-pad3_ gndpwr 1k
d2 gndpwr net-_d2-pad2_ 1N4148
* Control Statements

.ends SN7404_Subcircuit