* Subcircuit SN7408_Subcircuit
.subckt SN7408_Subcircuit net-_d1-pad2_ net-_d3-pad2_ net-_d2-pad2_ net-_d4-pad2_ net-_d7-pad2_ net-_d8-pad2_ net-_r1-pad1_ gndpwr net-_d9-pad2_ net-_d10-pad2_ net-_d15-pad2_ net-_d13-pad2_ net-_d16-pad2_ net-_d14-pad2_ 
* c:\fossee\esim\library\subcircuitlibrary\sn7408_subcircuit\sn7408_subcircuit.cir
.include NPN.lib
.include D.lib
r1  net-_r1-pad1_ net-_q1-pad2_ 4k
r3  net-_r1-pad1_ net-_d5-pad1_ 2k
r7  net-_r1-pad1_ net-_q11-pad2_ 1.6k
r11  net-_r1-pad1_ net-_q11-pad1_ 130
q1 net-_q1-pad1_ net-_q1-pad2_ net-_d1-pad2_ Q2N2222
q2 net-_q1-pad1_ net-_q1-pad2_ net-_d3-pad2_ Q2N2222
d1 gndpwr net-_d1-pad2_ 1N4148
d3 gndpwr net-_d3-pad2_ 1N4148
q5 net-_d5-pad1_ net-_q1-pad1_ net-_q5-pad3_ Q2N2222
q7 net-_d5-pad2_ net-_q5-pad3_ gndpwr Q2N2222
d5 net-_d5-pad1_ net-_d5-pad2_ 1N4148
q9 net-_q11-pad2_ net-_d5-pad2_ net-_q12-pad2_ Q2N2222
q11 net-_q11-pad1_ net-_q11-pad2_ net-_d7-pad1_ Q2N2222
q12 net-_d7-pad2_ net-_q12-pad2_ gndpwr Q2N2222
d7 net-_d7-pad1_ net-_d7-pad2_ 1N4148
r4  net-_q5-pad3_ gndpwr 800
r8  net-_q12-pad2_ gndpwr 1k
r2  net-_r1-pad1_ net-_q3-pad2_ 4k
r5  net-_r1-pad1_ net-_d6-pad1_ 2k
r9  net-_r1-pad1_ net-_q10-pad1_ 1.6k
r12  net-_r1-pad1_ net-_q13-pad1_ 130
q3 net-_q3-pad1_ net-_q3-pad2_ net-_d2-pad2_ Q2N2222
q4 net-_q3-pad1_ net-_q3-pad2_ net-_d4-pad2_ Q2N2222
d2 gndpwr net-_d2-pad2_ 1N4148
d4 gndpwr net-_d4-pad2_ 1N4148
q6 net-_d6-pad1_ net-_q3-pad1_ net-_q6-pad3_ Q2N2222
q8 net-_d6-pad2_ net-_q6-pad3_ gndpwr Q2N2222
d6 net-_d6-pad1_ net-_d6-pad2_ 1N4148
q10 net-_q10-pad1_ net-_d6-pad2_ net-_q10-pad3_ Q2N2222
q13 net-_q13-pad1_ net-_q10-pad1_ net-_d8-pad1_ Q2N2222
q14 net-_d8-pad2_ net-_q10-pad3_ gndpwr Q2N2222
d8 net-_d8-pad1_ net-_d8-pad2_ 1N4148
r6  net-_q6-pad3_ gndpwr 800
r10  net-_q10-pad3_ gndpwr 1k
r23  net-_r1-pad1_ net-_q25-pad2_ 4k
r19  net-_r1-pad1_ net-_d11-pad1_ 2k
r15  net-_r1-pad1_ net-_q15-pad2_ 1.6k
r13  net-_r1-pad1_ net-_q15-pad1_ 130
q25 net-_q23-pad2_ net-_q25-pad2_ net-_d15-pad2_ Q2N2222
q26 net-_q23-pad2_ net-_q25-pad2_ net-_d13-pad2_ Q2N2222
d15 gndpwr net-_d15-pad2_ 1N4148
d13 gndpwr net-_d13-pad2_ 1N4148
q23 net-_d11-pad1_ net-_q23-pad2_ net-_q21-pad2_ Q2N2222
q21 net-_d11-pad2_ net-_q21-pad2_ gndpwr Q2N2222
d11 net-_d11-pad1_ net-_d11-pad2_ 1N4148
q19 net-_q15-pad2_ net-_d11-pad2_ net-_q16-pad2_ Q2N2222
q15 net-_q15-pad1_ net-_q15-pad2_ net-_d9-pad1_ Q2N2222
q16 net-_d9-pad2_ net-_q16-pad2_ gndpwr Q2N2222
d9 net-_d9-pad1_ net-_d9-pad2_ 1N4148
r20  net-_q21-pad2_ gndpwr 800
r16  net-_q16-pad2_ gndpwr 1k
r24  net-_r1-pad1_ net-_q27-pad2_ 4k
r21  net-_r1-pad1_ net-_d12-pad1_ 2k
r17  net-_r1-pad1_ net-_q17-pad2_ 1.6k
r14  net-_r1-pad1_ net-_q17-pad1_ 130
q27 net-_q24-pad2_ net-_q27-pad2_ net-_d16-pad2_ Q2N2222
q28 net-_q24-pad2_ net-_q27-pad2_ net-_d14-pad2_ Q2N2222
d16 gndpwr net-_d16-pad2_ 1N4148
d14 gndpwr net-_d14-pad2_ 1N4148
q24 net-_d12-pad1_ net-_q24-pad2_ net-_q22-pad2_ Q2N2222
q22 net-_d12-pad2_ net-_q22-pad2_ gndpwr Q2N2222
d12 net-_d12-pad1_ net-_d12-pad2_ 1N4148
q20 net-_q17-pad2_ net-_d12-pad2_ net-_q18-pad2_ Q2N2222
q17 net-_q17-pad1_ net-_q17-pad2_ net-_d10-pad1_ Q2N2222
q18 net-_d10-pad2_ net-_q18-pad2_ gndpwr Q2N2222
d10 net-_d10-pad1_ net-_d10-pad2_ 1N4148
r22  net-_q22-pad2_ gndpwr 800
r18  net-_q18-pad2_ gndpwr 1k
* Control Statements

.ends SN7408_Subcircuit