* Subcircuit SN7432_Subcirrcuit
.subckt SN7432_Subcirrcuit net-_d1-pad2_ net-_d3-pad2_ net-_d2-pad2_ net-_d4-pad2_ net-_d7-pad2_ net-_d8-pad2_ net-_r1-pad1_ gndpwr net-_d9-pad2_ net-_d10-pad2_ net-_d15-pad2_ net-_d13-pad2_ net-_d16-pad2_ net-_d14-pad2_ 
* c:\fossee\esim\library\subcircuitlibrary\sn7432_subcirrcuit\sn7432_subcirrcuit.cir
.include NPN.lib
.include D.lib
q3 net-_q3-pad1_ net-_q3-pad2_ net-_d2-pad2_ Q2N2222
q4 net-_q4-pad1_ net-_q4-pad2_ net-_d4-pad2_ Q2N2222
q7 net-_d6-pad1_ net-_q3-pad1_ net-_q10-pad2_ Q2N2222
q8 net-_d6-pad1_ net-_q4-pad1_ net-_q10-pad2_ Q2N2222
d6 net-_d6-pad1_ net-_d6-pad2_ 1N4148
r2  net-_r1-pad1_ net-_q3-pad2_ 4k
r4  net-_r1-pad1_ net-_q4-pad2_ 2k
r7  net-_r1-pad1_ net-_d6-pad1_ 2.5k
q10 net-_d6-pad2_ net-_q10-pad2_ gndpwr Q2N2222
q12 net-_q12-pad1_ net-_d6-pad2_ net-_q12-pad3_ Q2N2222
q15 net-_q15-pad1_ net-_q12-pad1_ net-_d8-pad1_ Q2N2222
r11  net-_r1-pad1_ net-_q12-pad1_ 1.6k
r14  net-_r1-pad1_ net-_q15-pad1_ 130
d4 gndpwr net-_d4-pad2_ 1N4148
d2 gndpwr net-_d2-pad2_ 1N4148
r8  net-_q10-pad2_ gndpwr 1k
r12  net-_q12-pad3_ gndpwr 1k
d8 net-_d8-pad1_ net-_d8-pad2_ 1N4148
q16 net-_d8-pad2_ net-_q12-pad3_ gndpwr Q2N2222
q29 net-_q25-pad2_ net-_q29-pad2_ net-_d15-pad2_ Q2N2222
q30 net-_q26-pad2_ net-_q30-pad2_ net-_d13-pad2_ Q2N2222
q25 net-_d11-pad1_ net-_q25-pad2_ net-_q23-pad2_ Q2N2222
q26 net-_d11-pad1_ net-_q26-pad2_ net-_q23-pad2_ Q2N2222
d11 net-_d11-pad1_ net-_d11-pad2_ 1N4148
r27  net-_r1-pad1_ net-_q29-pad2_ 4k
r25  net-_r1-pad1_ net-_q30-pad2_ 2k
r22  net-_r1-pad1_ net-_d11-pad1_ 2.5k
q23 net-_d11-pad2_ net-_q23-pad2_ gndpwr Q2N2222
q21 net-_q17-pad2_ net-_d11-pad2_ net-_q18-pad2_ Q2N2222
q17 net-_q17-pad1_ net-_q17-pad2_ net-_d9-pad1_ Q2N2222
r17  net-_r1-pad1_ net-_q17-pad2_ 1.6k
r15  net-_r1-pad1_ net-_q17-pad1_ 130
d13 gndpwr net-_d13-pad2_ 1N4148
d15 gndpwr net-_d15-pad2_ 1N4148
r21  net-_q23-pad2_ gndpwr 1k
r18  net-_q18-pad2_ gndpwr 1k
d9 net-_d9-pad1_ net-_d9-pad2_ 1N4148
q18 net-_d9-pad2_ net-_q18-pad2_ gndpwr Q2N2222
q1 net-_q1-pad1_ net-_q1-pad2_ net-_d1-pad2_ Q2N2222
q2 net-_q2-pad1_ net-_q2-pad2_ net-_d3-pad2_ Q2N2222
q5 net-_d5-pad1_ net-_q1-pad1_ net-_q5-pad3_ Q2N2222
q6 net-_d5-pad1_ net-_q2-pad1_ net-_q5-pad3_ Q2N2222
d5 net-_d5-pad1_ net-_d5-pad2_ 1N4148
r1  net-_r1-pad1_ net-_q1-pad2_ 4k
r3  net-_r1-pad1_ net-_q2-pad2_ 2k
r5  net-_r1-pad1_ net-_d5-pad1_ 2.5k
q9 net-_d5-pad2_ net-_q5-pad3_ gndpwr Q2N2222
q11 net-_q11-pad1_ net-_d5-pad2_ net-_q11-pad3_ Q2N2222
q13 net-_q13-pad1_ net-_q11-pad1_ net-_d7-pad1_ Q2N2222
r9  net-_r1-pad1_ net-_q11-pad1_ 1.6k
r13  net-_r1-pad1_ net-_q13-pad1_ 130
d3 gndpwr net-_d3-pad2_ 1N4148
d1 gndpwr net-_d1-pad2_ 1N4148
r6  net-_q5-pad3_ gndpwr 1k
r10  net-_q11-pad3_ gndpwr 1k
d7 net-_d7-pad1_ net-_d7-pad2_ 1N4148
q14 net-_d7-pad2_ net-_q11-pad3_ gndpwr Q2N2222
q31 net-_q27-pad2_ net-_q31-pad2_ net-_d16-pad2_ Q2N2222
q32 net-_q28-pad2_ net-_q32-pad2_ net-_d14-pad2_ Q2N2222
q27 net-_d12-pad1_ net-_q27-pad2_ net-_q24-pad2_ Q2N2222
q28 net-_d12-pad1_ net-_q28-pad2_ net-_q24-pad2_ Q2N2222
d12 net-_d12-pad1_ net-_d12-pad2_ 1N4148
r28  net-_r1-pad1_ net-_q31-pad2_ 4k
r26  net-_r1-pad1_ net-_q32-pad2_ 2k
r24  net-_r1-pad1_ net-_d12-pad1_ 2.5k
q24 net-_d12-pad2_ net-_q24-pad2_ gndpwr Q2N2222
q22 net-_q19-pad2_ net-_d12-pad2_ net-_q20-pad2_ Q2N2222
q19 net-_q19-pad1_ net-_q19-pad2_ net-_d10-pad1_ Q2N2222
r19  net-_r1-pad1_ net-_q19-pad2_ 1.6k
r16  net-_r1-pad1_ net-_q19-pad1_ 130
d14 gndpwr net-_d14-pad2_ 1N4148
d16 gndpwr net-_d16-pad2_ 1N4148
r23  net-_q24-pad2_ gndpwr 1k
r20  net-_q20-pad2_ gndpwr 1k
d10 net-_d10-pad1_ net-_d10-pad2_ 1N4148
q20 net-_d10-pad2_ net-_q20-pad2_ gndpwr Q2N2222
* Control Statements

.ends SN7432_Subcirrcuit